US06441015B2
4-[2,6-Dichloro-4-(2H-tetrazol-5-yl)-phenoxy]-2-(pyrrolidine-1-sulfonyl)-phenol
4-[2,6-Dichloro-4-(2H-tetrazol-5-yl)-phenoxy]-2-(pyrrolidine-1-sulfonyl)-phenol was prepared from 3,5-dichloro-4-[4-hydroxy-3-(pyrrolidine-1-sulfonyl)-phenoxy]-benzonitrile according to a procedure analogous to that described in EXAMPLE 1, Step C. Sodium azide (4.0 equiv) and ammonium chloride (4.0 equiv) were used, and the reaction was heated to 143° C. for 40 hours. After the reaction had been acidified and the crude product collected by filtration, the solid was dissolved in MeOH, filtered, and the filtrate was concentrated. The residue was purified by preparative TLC (methanol:water:chloroform=19:1:47) to afford the title product of Example 2. MS (APCI−) Calc.: 455.0, Found: 454.2 (M−1).

reactant | 3,5-dichloro-4-[4-hydroxy-3-(pyrrolidine-1-sulfonyl)-phenoxy]-benzonitrile | ClC=1C=C(C#N)C=C(C1OC1=CC(=C(C=C1)O)S(=O)(=O)N1CCCC1)Cl | C17H14Cl2N2O4S
reactant | Sodium azide | 4.0 equiv | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.0 equiv | [Cl-].[NH4+]
product | 4-[2,6-Dichloro-4-(2H-tetrazol-5-yl)-phenoxy]-2-(pyrrolidine-1-sulfonyl)-phenol | ClC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)N2CCCC2)C(=CC(=C1)C=1N=NNN1)Cl | C17H15Cl2N5O4S
